US07981924B2
A solution of 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (400 mg, 1.69 mmol), 3-(4-formyl-2,6-dimethyl-phenyl)-propionic acid (419 mg, 2.03 mmol) and NaOH (1.7 g, 42.5 mmol) in methanol (17 mL) is stirred at 75° C. for 75 min before it is diluted with 1 N aq. HCl and extracted twice with EA. The organic extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with DCM containing 6% of methanol to give 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2,6-dimethyl-phenyl}-propionic acid (620 mg) as a pale yellow solid; LC-MS: tR=1.17 min; [M+1]=425.34; 1H NMR (CDCl3): δ 7.68 (d, J=15.8 Hz, 1H), 7.28 (s, 2H), 7.27 (d, J=15.8 Hz, 1H), 3.18 (t, J=7.0 Hz, 2H), 3.06-2.98 (m, 2H), 2.78 (q, J=7.6 Hz, 2H), 2.54-2.48 (m, 2H), 2.39 (s, 6H), 2.34 (s, 2H), 1.58 (t, J=7.0 Hz, 2H), 1.32 (t, J=7.6 Hz, 3H).

reactant | 1-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 1.69 mmol, 400 mg | C(C)C1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C14H20OS
reactant | 3-(4-formyl-2,6-dimethyl-phenyl)-propionic acid | 2.03 mmol, 419 mg | C(=O)C1=CC(=C(C(=C1)C)CCC(=O)O)C | C12H14O3
reactant | NaOH | 42.5 mmol, 1.7 g | [OH-].[Na+]
solvent | methanol | 17 mL | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
product | 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2,6-dimethyl-phenyl}-propionic acid | 620 mg | C(C)C1=C2C(=C(S1)C(C=CC1=CC(=C(C(=C1)C)CCC(=O)O)C)=O)CCC(C2)(C)C | C26H32O3S
